US05510326
2-(2,2,3-trimethylcyclopent-1-yl)acetaldehyde
510 g of 2-(2,2,3-trimethylcyclopent-3-en-1-yl) acetaldehyde at 85% (2.85 moles) were hydrogenated with 20 g of 5% Pd on carbon (50% wet) with 10 g of soda ash at 60 psi and 50°-60° C. The crude product was distilled from 22 g of boric anhydride affording 324 g of purified product, containing pinocamphone as a 10-15% impurity. BP 48° C./0.6 mmHg; 1H-NMR (300 MHz), δ0.54 (3H, s), 0.87 (3H, d, J=6.6 Hz), 0.88 (3H, s), 1.1-1.4 (2H, m), 2.25 (1H, m), 2.50 (1H, m), 2.55 (1H, m), 2.70-2.95 (3H, br m), 9.76 (1H, br s); 13C-NMR (75 MHz), δ14.01, 14.73, 25.54, 28.34, 30.35, 42.62, 44.84, 45.03, 45.75, 203.83; IR (Neat), 2980, 2720, 1730, 1470, 1390, 1370 cm-1 ; MS (m/e), 139 (M+ -15), 97, 69 (Base).

reactant | 2-(2,2,3-trimethylcyclopent-3-en-1-yl) acetaldehyde | 510 g | CC1(C(CC=C1C)CC=O)C | C10H16O
catalyst | Pd on carbon | 20 g | [Pd] | Pd
product | 2-(2,2,3-trimethylcyclopent-1-yl)acetaldehyde | CC1(C(CCC1C)CC=O)C | C10H18O
